US04481029
Methyl 3-[[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-aminosulfonyl]-2-thiophenecarboxylate
To 1.23 g of 2-amino-4,6-dimethyl pyrimidine in 30 ml of anhydrous acetonitrile was added with stirring 2.7 g of 2-methoxycarbonyl-3-thiophene-sulfonylisocyanate. The mixture was heated to the boiling point, whereupon all of the insoluble material dissolved and the mixture was allowed to cool. After stirring for two hours the mixture was filtered to remove the desired product which had precipitated as a white solid. After washing with anhydrous ethyl ether the produce melted at 191°-193° with decomposition and showed absorption peaks by nuclear magnetic resonance at 3.8 ppm for the methoxy group, 2.44 ppm for the two methyl groups on the pyrimidine ring, a peak at 7.0 consistent for the hydrogen in the pyrimidine ring and a peak at 7.42 for the hydrogens on the thiophene ring. The infrared absorption spectrum showed absorption peaks at 1720 and 1700 cm-1 consistent for the two carbonyl groups present in the desired product.

reactant | 2-amino-4,6-dimethyl pyrimidine | 1.23 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | 2-methoxycarbonyl-3-thiophene-sulfonylisocyanate | 2.7 g | COC(=O)C=1SC=CC1S(=O)(=O)N=C=O | C7H5NO5S2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | Methyl 3-[[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-aminosulfonyl]-2-thiophenecarboxylate | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(SC=C1)C(=O)OC | C13H14N4O5S2
